US05248803
In a 100 ml three-neck flask provided with a magnetic stirrer were charged 10.3 g (0.0542 mole) of cyclopentyl trimethoxysilane, 40.3 g (0.543 mole) of sec-butyl alcohol and 33.7 mg (0.625 m mole) of sodium methoxide, which were then reacted with each other at room temperature for 2 hours under stirring. Then, trimethylchlorosilane was added to neutralize the alkali. Then, 10.6 g (0.0457 mole) of sec-butoxy cyclopentyl dimethoxysilane were obtained by vacuum distillation. Its structure was confirmed as in Example 1. FIGS. 1 and 2 are charts of 1H-NMR and IR, respectively. The yield was 84%.

reactant | cyclopentyl trimethoxysilane | 0.0542 mole, 10.3 g | C1(CCCC1)[Si](OC)(OC)OC | C8H18O3Si
reactant | sec-butyl alcohol | 0.543 mole, 40.3 g | C(C)(CC)O | C4H10O
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
catalyst | sodium methoxide | 33.7 mg | C[O-].[Na+]
product | sec-butoxy cyclopentyl dimethoxysilane | 0.0457 mole, 10.6 g, yield was 84% | C(C)(CC)O[Si](OC)(OC)C1CCCC1 | C11H24O3Si
